US04419496
Preparation of Agglomerating Agent A--Ethyl Acrylate/Methacrylic Acid (92/8) 20% Shell
Into an agitated reactor outfitted for nitrogen blanketing of the contents there are charged: 1,009 parts of a 35% solids polybutadiene latex having an average particle size of 1,000 A; 360 parts water; 1 part acetic acid to give the reaction mass a pH of 4; 0.085 part of the bisodium salt of ethylenediaminetetracetic acid (herein referred to as "EDTA.2Na+ " or just "EDTA") and 1.05 parts of K2S2O8. Heat is applied until the charged contents reach 65° C. At this point, two continuous addition streams are started and feed into the reactor. One is an aqueous stream which is charged over a 11/4 hour period and contains 68 parts of a water solution of 0.125% K2S2O8 and 2.5% sodium dodecylbenzene sulfonate. The other is a monomer stream which is charged over a one-hour period and consists of 85 parts of a 92:8 weight ratio mixture of ethyl acrylate (EA) and methacrylic acid (MAA) calculated to give a 20% shell in the resulting graft copolymer (based on wt. polybutadiene plus wt. interpolymerized EA and MAA contents). After the addition is completed, the reaction mass is maintained at 65° C. with continued stirring for 3 additional hours. Analysis of the resulting AgAg graft copolymer latex material shows that approximately 100% interpolymerization of the acid and acrylate monomers has been achieved to yield particles consisting of 20% shell, the shell consisting of about 92% EA and 8% MAA. Extraction with methyl ethyl ketone (MEK) of the resultant AgAg material demonstrates that 79% of the EA/MAA monomeric mixture has actually been grafted to the 1,000 A polybutadiene (PBD) particles and 21% exists in the shell as non-grafted EA/MAA copolymer.

reactant | acrylate | C(C=C)(=O)[O-]
reactant | EA | C(C=C)(=O)OCC | C5H8O2
reactant | MAA | C(C(=C)C)(=O)O | C4H6O2
product | Ethyl Acrylate Methacrylic Acid | C(C=C)(=O)OCC.C(C(=C)C)(=O)O | InChI=1S/C5H8O2.C4H6O2/c1-3-5(6)7-4-2;1-3(2)4(5)6/h3H,1,4H2,2H3;1H2,2H3,(H,5,6)
